US07482448B2
To a mixture of (S)-2-amino-4,4-difluoro-6-methyl-heptanoic acid methyl ester hydrochloride (238 mg, 0.97 mmol) and diisopropyl amine (2.42 mmol, 313 mg) in dry dichloromethane (5 mL) under N2 is added drop wise morpholine carbonyl chloride (1.45 mmol, 218 mg). The mixture is stirred at room temperature for 23 h, then diluted with dichloromethane (25 mL) and washed with dilute HCl (30 mL), and saturated NaHCO3 (30 mL). The organic layers are dried over magnesium sulfate and concentrated in vacuum. Purification over 12 g silica gel, eluting with EtOAc:Heptane (1:1, then 2:1) affords (S)-4,4-Difluoro-6-methyl-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid methyl ester (206 mg, 66%).

reactant | (S)-2-amino-4,4-difluoro-6-methyl-heptanoic acid methyl ester hydrochloride | 0.97 mmol, 238 mg | Cl.COC([C@H](CC(CC(C)C)(F)F)N)=O
reactant | diisopropyl amine | 2.42 mmol, 313 mg | C(C)(C)NC(C)C | C6H15N
reactant | morpholine carbonyl chloride | 1.45 mmol, 218 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-4,4-Difluoro-6-methyl-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid methyl ester | 206 mg, 66% | COC([C@H](CC(CC(C)C)(F)F)NC(=O)N1CCOCC1)=O | C14H24F2N2O4
